US04512999
A solution of 6.6 g of methylene-6,7-dioxo-3,3-dimethyl-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate pivalate in 150 ml of benzene is treated at room temperature with 11 g of ethoxycarbonyl(methoxyimino)acetylmethylenetriphenylphosphorane. After 10 minutes, the reaction mixture is evaporated. The residue is chromatographed on silica gel while eluting with cyclohexane/ethyl acetate (6:4). There is obtained methylene-(2S,5R)-6-[3-ethoxycarbonyl)-2-(Z)-(methoxyimino)acetonylidene]-3,3-dimethyl-7-oxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylate pivalate as an orange oil [Rf: 0.51; cyclohexane/ethyl acetate (6:4); NMR (CDCl3), δ (ppm): 1.23 (9H); 1.37 (m, 3H); 1.53 (3H); 1.62 (3H); 4.21 (3H, --OCH3); 4.42 (m, 2H); 4.65 (1H3); 5.9 (m, 2H); 6.11 (1H); 6.66 (1H)].

reactant | methylene-6,7-dioxo-3,3-dimethyl-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate pivalate | 6.6 g | C(C(C)(C)C)(=O)O.C=S1C(C(N2C(C(C12)=O)=O)C(=O)O)(C)C
reactant | ethoxycarbonyl(methoxyimino)acetylmethylenetriphenylphosphorane | 11 g | C(C)OC(=O)C1=C(C=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(C=NOC)=O | C25H24NO4P
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 3,3-dimethyl-7-oxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylate pivalate | C(C(C)(C)C)(=O)O.CC1(C(N2C(CC2S1)=O)C(=O)O)C | InChI=1S/C8H11NO3S.C5H10O2/c1-8(2)6(7(11)12)9-4(10)3-5(9)13-8;1-5(2,3)4(6)7/h5-6H,3H2,1-2H3,(H,11,12);1-3H3,(H,6,7)
